US04711963
(1) Reaction 1: Synthesis of 3-Methyl-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one
To 280 g of 2,4,6-trichlorophenylhydrazine was added 180 ml of ethyl acetoacetate, and the resulting mixture was stirred at room temperature for 30 minutes. After adding thereto a solution prepared by dissolving 215 g of potassium hydroxide in 7 l of ethanol, the reaction solution was refluxed with heating for 1 hour. The reaction solution was poured into 6 l of water and neutralized with conc. hydrochloric acid. After being cooled to room temperature, a precipitate thus formed was filtered off, washed with water, and then dried under reduced pressure to obtain the titled compound. Yield: 300 g. Melting point: 178° to 180° C.

reactant | 2,4,6-trichlorophenylhydrazine | 280 g | ClC1=C(C(=CC(=C1)Cl)Cl)NN | C6H5Cl3N2
reactant | ethyl acetoacetate | 180 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | potassium hydroxide | 215 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 7 l | C(C)O | C2H6O
solvent | water | 6 l | O | H2O
product | 3-Methyl-1-(2,4,6-trichlorophenyl)-2-pyrazolin-5-one | CC1=NN(C(C1)=O)C1=C(C=C(C=C1Cl)Cl)Cl | C10H7Cl3N2O
